US06794389B2
cis-N-tert-Butoxycarbonyl-2-(2-ethoxycarbonyl-6-methoxyquinazolin-4-yl)aminocyclohexylamine
A solution of 1.96 g of 4-chloro-2-ethoxycarbonyl-6-methoxyquinazoline in 70 mL of toluene was combined with 1.58 g of cis-2-tert-butoxycarbonylaminocyclohexylamine and 0.74 g of triethylamine, and heated under reflux for 15 hours. After concentrating, the mixture was combined with water, extracted with chloroform, and dried. After the solvent was distilled off, the residue was purified by column chromatography on silica gel (chloroform) to obtain 2.70 g of the desirable compound.

reactant | 4-chloro-2-ethoxycarbonyl-6-methoxyquinazoline | 1.96 g | ClC1=NC(=NC2=CC=C(C=C12)OC)C(=O)OCC | C12H11ClN2O3
reactant | cis-2-tert-butoxycarbonylaminocyclohexylamine | 1.58 g | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)N | C11H22N2O2
reactant | triethylamine | 0.74 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
product | cis-N-tert-Butoxycarbonyl-2-(2-ethoxycarbonyl-6-methoxyquinazolin-4-yl)aminocyclohexylamine | 2.70 g | C(C)(C)(C)OC(=O)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)OC)C(=O)OCC | C23H32N4O5
